US05783572
5-(N,N-Dimethylaminomethyl)-1H-1,2,3-benzotriazole hydrochloride (383 mg 1.8 mmol) was added to a suspension of sodium hydride (108 mg, 80% dispersion in oil, 3.6 mmol) in dry dimethylformamide (20 mL) at room temperature and stirred for 15 minutes. The mixure was cooled to -30° C., 5-bromomethyl-6,7-dichloro-2,3-dimethoxy quinoxaline (Preparation 1, 528 mg, 1.5 mmol) was added, and the mixture was stirred at -30° C. for 1 hour, and then allowed to warm slowly to 0° C. Saturated aqueous ammonium chloride (5 mL) was added, followed by water (50 mL). The product was extracted into ethyl acetate, the extracts were washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane/ethyl acetate, then ethyl acetate/methanol) to give 6,7-dichloro-2,3-dimethoxy-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-yl] methylquinoxaline (135 mg, 28%), Rf =0.4 (silica gel, ethyl acetate/methanol=4:1), as the slowest eluted product isomer.

reactant | 5-(N,N-Dimethylaminomethyl)-1H-1,2,3-benzotriazole hydrochloride | 1.8 mmol, 383 mg | Cl.CN(C)CC1=CC2=C(NN=N2)C=C1
reactant | sodium hydride | 3.6 mmol, 108 mg | [H-].[Na+]
reactant | 5-bromomethyl-6,7-dichloro-2,3-dimethoxy quinoxaline | 1.5 mmol, 528 mg | BrCC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C11H9BrCl2N2O2
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 6,7-dichloro-2,3-dimethoxy-5-[5-(N,N-dimethylaminomethyl)-1,2,3-benzotriazol-1-yl] methylquinoxaline | 135 mg, 28% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=NC2=C1C=CC(=C2)CN(C)C | C20H20Cl2N6O2
